US07462624B2
Step B: 7-Benzyl-3,7-dihydro-1H-purine-2,6-dione
To a mixture of 2-amino-7-benzyl-3,7-dihydro-6H-purin-6-one (25.0 g, 0.104 mol) in acetic acid (750.0 mL) and water (50.0 mL) at 55° C. was added a solution of sodium nitrite (28 g, 0.41 mol) in water (50 ml) dropwise. After the addition, the mixture was continued to stir for about 30 min until no starting material was left and then cooled to room temperature. The reaction mixture was concentrated to about ⅓ of its original volume, then diluted with 250 ml water. The precipitate formed was collected by filtration to provide the desired product (20 g, 79.7%). LCMS calculated for C12H11N4O2(M+H): 243.1; found: 243.1.

reactant | 2-amino-7-benzyl-3,7-dihydro-6H-purin-6-one | 0.104 mol, 25.0 g | NC1=NC(C=2N(C=NC2N1)CC1=CC=CC=C1)=O | C12H11N5O
reactant | sodium nitrite | 0.41 mol, 28 g | N(=O)[O-].[Na+]
solvent | acetic acid | 750.0 mL | C(C)(=O)O | C2H4O2
solvent | water | 50.0 mL | O | H2O
solvent | water | 50 ml | O | H2O
product | 7-Benzyl-3,7-dihydro-1H-purine-2,6-dione | 20 g, 79.7% | C(C1=CC=CC=C1)N1C=NC=2NC(NC(C12)=O)=O | C12H10N4O2
